US07192950B2
2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-N-(3-hydroxy-propyl)-2-phenyl-acetamide
prepared by reaction of [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid with 3-amino-1-propanol.

reactant | [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)O)C3=CC=CC=C3)C=CC1OC | C29H33NO6
reactant | 3-amino-1-propanol | NCCCO | C3H9NO
product | 2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-N-(3-hydroxy-propyl)-2-phenyl-acetamide | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)NCCCO)C3=CC=CC=C3)C=CC1OC | C32H40N2O6
